US07544812B2
2-Butoxy-3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid:
A solution of 2-Butoxy-3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester and 5N NaOH (0.3 mL) in ethanol (3 mL) is refluxed under nitrogen for 1 h, cooled to ambient temperature, and concentrated in vacuo. The residue is diluted with 1N HCl, extracted, dried, concentrated, and purified by LCMS to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.22 (t, 1H, J=8.0 Hz), 7.07 (d, 2H, J=8.5 Hz), 6.83-6.79 (m, 3H), 6.72 (d, 2H, J=8.5 Hz), 4.38, 4.30 (ABq, 2H, J=15.1 Hz), 3.95 (t, 2H, J=6.0 Hz), 3.78 (s, 3H), 3.69-3.62 (m, 1H), 3.60-3.54 (m, 1H), 3.50-3.45 (m, 1H), 3.50-3.45 (m, 1H), 3.40 (t, 1H, J=9.0 Hz), 3.03-3.00 (m, 1H), 3.01, 2.95 (ABq, 2H, J=14.6 Hz), 2.85 (s, 3H), 2.26-2.19 (m, 1H), 1.92-1.85 (m, 1H), 1.62-1.55 (m, 2H), 1.48 (s, 3H), 1.42 (m, 2H), 0.93 (t, 3H, J=7.0 Hz). MS [EI+] 499 (M+H)+, [EI−] 497 (M−H)+.

reactant | 2-Butoxy-3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=CC=C1)OC)=O)C)(C)OCCCC)=O | C30H42N2O6
reactant | NaOH | 5N, 0.3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-Butoxy-3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid | C(CCC)OC(C(=O)O)(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=CC=C1)OC)=O)C)C | C28H38N2O6
